data/rdb19/train.csv
rxn,smiles,ea
449,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:19])([H:20])[H:21])([O:11][C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15]>>[C:1]([O:2][O:3][H:19])([H:4])([H:5])[H:6].[C:7]([C:8]([C:9]([C:10]([H:20])[H:21])([O:11][C:12]([H:22])([H:23])[H:24])[H:18])([H:16])[H:17])([H:13])([H:14])[H:15],29.59553442883771
830,[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])([C:23]([H:24])[H:25])[H:29])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:19]([O:20][C:21]([C:22]([H:30])([H:31])[H:32])=[C:23]([H:24])[H:25])([H:26])([H:27])[H:28].[C:1]([C:2]([H:11])([H:12])[H:29])([H:8])([H:9])[H:10].[C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13],75.91181373945437
4348,[C:16]([C:17]([C:18]([H:19])[H:20])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:25])([H:26])[H:27].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3](=[O:4])[C:5]=[C:6]([H:11])[H:12])([H:8])([H:9])[H:10].[C:7]([H:13])([H:14])([H:15])[C:18]([C:17]([C:16]([H:25])([H:26])[H:27])([O:21][C:22](=[O:23])[C:24]([H:29])([H:30])[H:31])[H:28])([H:19])[H:20],60.28767858672654
219,[C:12](=[C:13]([N:14]([C:15](=[O:16])[H:21])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:12](=[C:13]([N:14]([C:15]=[O:16])[H:20])[H:19])([H:17])[H:18].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[H:21])([H:6])([H:7])[H:8],22.908961641893256
3098,[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([N:21]([C:22](=[O:23])[H:29])[H:28])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4]1([C:6](=[C:7]([H:14])[H:15])[H:13])[O:5][C:18]1([H:19])[H:20])([H:11])[H:12])([H:8])([H:9])[H:10],50.91445862100227
4515,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]=[O:5])([H:7])([H:8])[H:9].[O:6]([H:12])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],46.62817155465018
304,[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])([C:8]([H:21])([H:22])[H:23])[C:9](=[O:10])[O:11][C:12]([H:24])([H:25])[H:26])([H:16])[H:17])([H:13])([H:14])[H:15].[O:1]([O:2])[H:3]>>[O:11][C:12]([H:24])([H:25])[H:26].[O:1]([O:2][C:9]([C:6]([C:5]([C:4]([H:13])([H:14])[H:15])([H:16])[H:17])([C:7]([H:18])([H:19])[H:20])[C:8]([H:21])([H:22])[H:23])=[O:10])[H:3],44.96675085288007
258,[C:1]([O:2][C:6]([H:7])([C:8]([H:10])([H:11])[O:12][C:13]([O:15][O:14])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5]>>[C:1]([O:2][C:6]([H:7])([C:8]([H:10])[O:12][C:13]([O:15][O:14][H:11])([H:16])[H:17])[H:9])([H:3])([H:4])[H:5],22.67739841178991
326,[C:4]([C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[C:4]([C:5](=[C:6][H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2][H:13])[H:3],32.088436795631424
954,[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11].[N:14]([C:15](=[O:16])[C:17](=[C:18]([H:22])[H:23])[H:21])([H:19])[H:20]>>[C:1]([C:2](=[C:3]([H:4])[H:5])[C:6](=[O:7])[O:8][H:13])([H:9])([H:10])[H:11].[H:12][C:18]([C:17]([C:15]([N:14]([H:19])[H:20])=[O:16])[H:21])([H:22])[H:23],25.518082758702803
4626,[C:17](=[C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23].[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])[H:6])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12]>>[C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([H:5])([H:6])[C:17]([C:18]([N:19]([C:20](=[O:21])[H:26])[H:25])[H:24])([H:22])[H:23])[C:7](=[O:8])[O:9][H:16])([H:10])([H:11])[H:12],15.653546824818475
4062,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25][H:31])([H:26])([H:27])[H:28]>>[C:1]([C:2]([C:3](=[C:4]([H:14])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[C:22]([H:29])[H:30])[C:23](=[O:24])[O:25])([H:26])([H:27])[H:28].[H:15][H:31],66.91494559351122
2963,[C:16]([C:17]([C:18]([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34])([H:27])[H:28])([H:24])([H:25])[H:26].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7][H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:14][C:18]([C:17]([C:16]([H:24])([H:25])[H:26])([H:27])[H:28])([C:19]([H:29])([H:30])[H:31])[C:20](=[O:21])[O:22][C:23]([H:32])([H:33])[H:34],34.538439050491434
